US07576215B2
3-BENZYL-4-(3-{[2-FLUORO-3-(TRIFLUOROMETHYL)PHENOXY]METHYL}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}methanol and 2-fluoro-3-trifluoromethylphenol according to the procedure of Example 69. MS (ESI) m/z 556.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}methanol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)CO)C(F)(F)F | C24H18F3NO
reactant | 2-fluoro-3-trifluoromethylphenol | FC1=C(C=CC=C1C(F)(F)F)O | C7H4F4O
product | 3-BENZYL-4-(3-{[2-FLUORO-3-(TRIFLUOROMETHYL)PHENOXY]METHYL}PHENYL)-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)COC1=C(C(=CC=C1)C(F)(F)F)F)C(F)(F)F | C31H20F7NO
